US09238640B2
A solution of tert-butyl 4-(N-benzylacetamido)piperidine-1-carboxylate (9.3 g, 28.0 mmol) in dioxane (20 mL) and 4 M HCl/dioxane (14.0 mL, 56.0 mmol) was stirred at room temperature overnight and then concentrated in vacuo. The residue was basified with 2 N NaOH and extracted with EtOAc. The organics were washed with brine, dried (Na2SO4), filtered, and concentrated in vacuo, to afford N-benzyl-N-(piperidin-4-yl)acetamide (4.4 g, 67%).

reactant | tert-butyl 4-(N-benzylacetamido)piperidine-1-carboxylate | 28.0 mmol, 9.3 g | C(C1=CC=CC=C1)N(C(C)=O)C1CCN(CC1)C(=O)OC(C)(C)C | C19H28N2O3
reactant | HCl dioxane | 56.0 mmol, 4 M, 14.0 mL | Cl.O1CCOCC1
solvent | dioxane | 20 mL | O1CCOCC1 | C4H8O2
product | N-benzyl-N-(piperidin-4-yl)acetamide | 4.4 g, 67% | C(C1=CC=CC=C1)N(C(C)=O)C1CCNCC1 | C14H20N2O
